US05773463
(±) cis-1-Phenoxy-2-methylaminoindane Hydrochloride (E24)
The title compound was prepared in a similar manner to Example 12 from LiAlH4 (250 mg, 6.5 mmol), (±) cis-1-phenoxy-2-tert-butoxycarbonylaminoindane (425 mg, 1.3 mmol) and tetrahydrofuran (30 ml). After a reaction time of 2 h the reaction was worked up as previously described and subjected to column chromatography on silica gel eluting with 5% ethanol in chloroform to afford a colourless oil (290 mg) which was converted to the HCl salt and crystallised to afford the title compound as a white solid. m.p. >215° C. dec. (from methanol-diethyl ether).

reactant | LiAlH4 | 6.5 mmol, 250 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | (±) cis-1-phenoxy-2-tert-butoxycarbonylaminoindane | 1.3 mmol, 425 mg | O(C1=CC=CC=C1)[C@H]1[C@H](CC2=CC=CC=C12)NC(=O)OC(C)(C)C | C20H23NO3
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
reactant | ethanol | C(C)O | C2H6O
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
product | (±) cis-1-Phenoxy-2-methylaminoindane Hydrochloride | Cl.O(C1=CC=CC=C1)[C@H]1[C@H](CC2=CC=CC=C12)NC | InChI=1S/C16H17NO.ClH/c1-17-15-11-12-7-5-6-10-14(12)16(15)18-13-8-3-2-4-9-13;/h2-10,15-17H,11H2,1H3;1H/t15-,16+;/m0./s1
